US04339457
To 60 ml of stirred glacial acetic acid was added 25.0 grams (0.15 mole) of ethyl 3-aminobenzoate. The mixture was stirred for two minutes and 19.6 grams (0.15 mole) of 2,5-dimethoxytetrahydrofuran was added during a five minute period. Upon complete addition the red solution was heated under reflux for 1.5 hours. The acetic acid solvent was removed by distillation. Higher boiling volatiles were also removed by distillation, under reduced pressure (80°-110° C./55 2 mm). Pure ethyl 3-(pyrrol-1-yl)benzoate was obtained by distillation under reduced pressure; bp 143°-145° C./2 mm. The product solidified on standing; mp 62°-64° C. The yield was 25.4 grams of white solid.

reactant | ethyl 3-aminobenzoate | 0.15 mole, 25.0 grams | NC=1C=C(C(=O)OCC)C=CC1 | C9H11NO2
reactant | 2,5-dimethoxytetrahydrofuran | 0.15 mole, 19.6 grams | COC1OC(CC1)OC | C6H12O3
solvent | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
product | ethyl 3-(pyrrol-1-yl)benzoate | N1(C=CC=C1)C=1C=C(C(=O)OCC)C=CC1 | C13H13NO2
